Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cefepime / Advil / antibiotics - due to C. diff -Must use oral 
vancomycin with ALL ABX
 
Attending: ___.
 
Chief Complaint:
s/p fall from wheelchair
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ w/PMH dementia (baseline oriented to self) hypotension, 
prior
kidney disease requiring hemodialysis w/R SDH with left frontal
tSAH s/p fall from her wheelchair at 3 ___. She was brought from
the scene by EMS to ___ ED - initially consciousness and was 
at
her baseline interacting with her family.  CT scan obtained at
7pm - with declining cognition. Patient is not on antiplatelets
or anticoagulants. 
 
Past Medical History:
- Cefepime Toxicity requiring Dialysis  
- Non-convulsive status epilepticus  
- Anemia  
- Osteomyelitis  
- Hypertension  
- Subdural hematoma s/p burrhole in ___  
- osteoarthritis  
- shingles infection in ___  
 
Social History:
___
Family History:
Mother deceased age ___, chronic obstructive pulmonary disease.  
Father deceased age ___, stroke.
 
Physical Exam:
on admission: 
Physical Exam:
Pulse: 100, RR: 16, BP: 137/85, O2 sat: 99, O2 flow: (Room Air).

GCS at the scene: unknown

GCS upon Neurosurgery Evaluation:  14    
Time of evaluation: ___  ___

Airway: [ ]Intubated   [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [x]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Gen: WD/WN, comfortable, NAD.

HEENT:
Pupils:  bilateral cataracts
EOMs: unable to perform formal cardinal fields of gaze, but 
tracks examiner and gaze crosses midline 

Extrem: 
warm and well perfused

Neuro:
Mental Status: Awake, alert, somewhat cooperative with exam

Orientation: not oriented.

Language: primary language is ___ and HCP is bedside 
translating - however reports that her speech is normally clear 
and is now non-sensical. 

Cranial Nerves:
I: Not tested
II: Pupils w/bilateral cataracts
III, IV, VI: Extraocular movements intact bilaterally without 
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: 
Following only intermittent simple commands requiring 
repetition.
Unable to get patient to complete drift testing. MAE 
antigravity.

Patient does not complain of neck pain or restricted range of
motion. 

Sensation: Intact to light touch

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 428)
    Temp: 98.1 (Tm 98.3), BP: 124/69 (124-159/62-77), HR: 93
(91-112), RR: 20 (___), O2 sat: 94% (93-98), O2 delivery: Ra  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, PERRL, head abrasion
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally anteriorly, no wheezes,
rales, rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present,
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: alert, conversant but difficult to understand. not very
cooperative with exam, moving all 4 extremities
 
Pertinent Results:
LABS:

___ 08:35PM BLOOD WBC-13.3* RBC-3.48* Hgb-11.8 Hct-35.1 
MCV-101* MCH-33.9* MCHC-33.6 RDW-12.4 RDWSD-45.5 Plt ___
___ 05:50AM BLOOD WBC-8.6 RBC-3.01* Hgb-10.0* Hct-30.0* 
MCV-100* MCH-33.2* MCHC-33.3 RDW-12.1 RDWSD-44.0 Plt ___
___ 10:08AM BLOOD WBC-5.7 RBC-3.03* Hgb-10.2* Hct-30.5* 
MCV-101* MCH-33.7* MCHC-33.4 RDW-12.2 RDWSD-44.8 Plt ___
___ 08:35PM BLOOD ___ PTT-27.1 ___
___ 09:35PM BLOOD Glucose-113* UreaN-17 Creat-0.7 Na-139 
K-4.3 Cl-101 HCO3-27 AnGap-11
___ 05:50AM BLOOD Glucose-101* UreaN-16 Creat-0.7 Na-140 
K-4.1 Cl-101 HCO3-25 AnGap-14
___ 10:08AM BLOOD Glucose-82 UreaN-11 Creat-0.7 Na-142 
K-3.8 Cl-107 HCO3-22 AnGap-13
___ 10:08AM BLOOD Calcium-8.2* Phos-2.3* Mg-1.9

IMAGING:

CT C-SPINE W/O CONTRASTStudy Date of ___ 7:04 ___
1. No evidence of fracture or traumatic malalignment.
2. Severe degenerative changes within the cervical spine with 
moderate to
severe spinal canal narrowing at C5-6, which is similar compared 
to ___, but
puts the patient at higher risk for spinal cord injury in the 
setting of
significant trauma.
3. Opacification within the dependent portion of the upper lobes 
bilaterally,
incompletely evaluated on this examination, although this may 
represent
atelectasis.
4. Multinodular thyroid gland.  Largest nodule measures 1.5 cm, 
for which
thyroid ultrasound is recommended.

CT HEAD W/O CONTRASTStudy Date of ___ 7:04 ___
1. Acute right cerebral subdural hematoma measuring 7 mm in 
thickness.
2. Small amount of acute subarachnoid hemorrhage within 
bilateral frontal
sulci.
3. Large right frontal scalp hematoma without evidence of 
underlying fracture.

GLENO-HUMERAL SHOULDER (W/ Y VIEW) RIGHTStudy Date of 
___ 10:48 ___
No fracture or dislocation.

MR CERVICAL SPINE W/O CONTRASTStudy Date of ___ 11:27 ___
Aborted MRI exam due to the patient's uncooperativeness.  Single 
sagittal T1
sequence obtained is severely degraded by motion and only 
vaguely
re-demonstrates the severe degenerative changes of the cervical 
spine and
likely cord compression at the C5-C6 level.

CT HEAD W/O CONTRASTStudy Date of ___ 8:19 AM
1. Right cerebral hemisphere acute subdural hemorrhage with 
maximal thickness
of 6 mm and no midline shift, as described.
2. Grossly stable small acute bifrontal subarachnoid 
hemorrhages.
3. Large right frontal scalp hematoma with no evidence of 
underlying fracture.
4. Paranasal sinus disease , as described.

HAND (PA,LAT & OBLIQUE) LEFTStudy Date of ___ 4:24 ___
No acute fracture.
There are severe degenerative changes, some not in a typical 
distribution for
OA, raising possibility of intermixed CPPD, and/or erosive OA, 
for clinical
correlation.
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of major 
neurocognitive disorder, orthostatic hypotention, constipation, 
and osteoperosis who presented to ___ with stable right 
frontal SDH and who is at her mental baseline. She was evaluated 
by interval CT scan and neurosurgery, who did not feel there was 
any indication for surgery at this time. She was started on 
Keppra for a 7-day course or seizure prophylaxis. While in the 
hospital, she was managed with trazodone for delirium. 
Ultimately, she was felt to be at her mental baseline and was 
discharged.

TRANSITIONAL ISSUES:
[ ] Started on Keppra 500mg BID for 7 day course (last day ___ 

[ ] Can follow with Traumatic Brain Injury Clinic
[ ] No need for neurosurgery follow up
[ ] Can have acetaminophen 1000mg TID for pain post fall
[ ] Home ___
[ ] Monitor for focal deficits or declining mental status in 
coming days which could be sign of enlarging bleed

ACUTE ISSUES:

#Fall:
#SDH:
Patient suffered mechanical fall due to impulsive behavior. 
History not suggestive of cardiogenic, neurogenic etiology of 
fall. No further workup indicated. She has 24 hour care at home. 
SDH stable on repeat CT with no plan for neurosurgical 
intervention. Patient to continue keppra 500mg BID for 7 days 
for seizure ppx ___, last day ___.

#Major cognitive decline
#Delirium prevention
Patient with major congnitive decline likely due to late onset 
Alzheimer. Cognitive decline complicated by impulsive behavior, 
agitation at night. While hospitalized, patient will benefit 
from maximal non-pharmacological management. In addition,
patient received trazadone 50mg QHS for nighttime agitation.

CHRONIC ISSUES

#Orthostatic hypotension: 
Patient with known orthostatic hypotension. Has been well 
controlled with fludricortisone .1mg daily, which was continued. 
Also very important to ensure good PO intake.

#Osteoporosis: 
-Patient followed by endocrinology.
-Continues on Prolia every 6 months.
-Continue ___ calcium and vitamin D.

#Subclinical Hypothyroidism: 
#Thyroid nodules
TSH previously stable ___. Never on therapy. Patient 
found
to have Multinodular thyroid gland on Ct C-spine Largest nodule
measures 1.5 cm, for which thyroid ultrasound is recommended.
-Given patient age and cognitive decline, diagnostic thyroid US
is not indicated.
 
Medications on Admission:
DICLOFENAC SODIUM [VOLTAREN] - Voltaren 1 % topical gel. apply 
to
right hip and knee four times a day as needed for pain
FLUDROCORTISONE - fludrocortisone 0.1 mg tablet. 1 tablet(s) by
mouth every day
LIDOCAINE [LIDODERM] - Lidoderm 5 % topical patch. apply to
bliateral legs for neuopathy once a day
PHYSICAL THERAPY - physical therapy  . Evaluate and treatment 
low
back pain due to lumbar spinal stenosis. ICD #10: ___
REMOVABLE HALF BED SIDE RAIL - Removable half bed side rail  .
Use as directed on bed for fall prevention ICD 10# R26.9
TRAMADOL - tramadol 50 mg tablet. 1 (One) tablet(s) by mouth 
four
times a day with food or snack
TRAZODONE - trazodone 50 mg tablet. 1 tablet(s) by mouth daily
before bed at 7 or 8pm
VANCOMYCIN - vancomycin 125 mg capsule. 1 capsule(s) by mouth
four times a day start when starting antibiotics and continue 
for
another 2 weeks after stopping antibiotic
 
Medications - OTC
ACETAMINOPHEN - acetaminophen ER 650 mg tablet,extended release.
2 tablet(s) by mouth twice a day with breakfast and dinner take
an additional tab at bedtime as needed for pain -  (OTC)
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 600 WITH VITAMIN D3] -
Calcium 600 with Vitamin D3 600 mg (1,500 mg)-500 unit capsule. 
1
capsule(s) by mouth twice a day
CRANBERRY EXTRACT [CRANBERRY CONCENTRATE] - Cranberry 
Concentrate
500 mg capsule. 1 capsule(s) by mouth twice a day -  (OTC)
MULTIVIT-IRON-MIN-FOLIC ACID [CENTRUM] - Centrum 3,500 unit-18
mg-0.4 mg chewable tablet. 1 tablet(s) by mouth once a day - 
(OTC)
POLYETHYLENE GLYCOL 3350 [MIRALAX] - Miralax 17 gram/dose oral
powder. 1 cap powder(s) by mouth daily prn -  (OTC)
SODIUM CHLORIDE - sodium chloride 1 gram tablet. 1 tablet(s) by
mouth ___ tablets every other day

 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO BID Duration: 6 Days 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*12 Tablet Refills:*0 
2.  Acetaminophen 650 mg PO ASDIR  
3.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
4.  cranberry extract ___ mg oral BID  
5.  diclofenac sodium 1 % topical QID:PRN pain  
6.  Fludrocortisone Acetate 0.1 mg PO DAILY  
7.  Lidocaine 5% Patch 1 PTCH TD QAM  
8.  Polyethylene Glycol 17 g PO DAILY  
9.  Sodium Chloride 1 gm PO ASDIR  
10.  TraMADol 50 mg PO QID  
11.  TraZODone 50 mg PO QHS  
12.  vancomycin 125 mg oral ASDIR  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
-subdural hematoma 
-subarachnoid hemorrhage 
-fall
Secondary diagnosis:
-major cognitive decline

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
================================================  
Discharge Worksheet  
================================================  
Dear Ms. ___,
  
WHY WERE YOU ADMITTED?
-You came to ___ because 

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:  
-In the hospital, you had brain scans which demonstrated some 
bleeding.
–You were evaluated by the neurosurgery team who did not feel 
that you needed surgery
-You were started on some new medications in the setting of your 
fall

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please be sure to attend your follow up appointments (see 
below)  
- Please take all of your medications as prescribed (see below). 
   
- Please see below for additional instructions from your 
neurosurgery team

It was a pleasure participating in your care. We wish you the 
best!  

Sincerely,  
Your ___ Care Team

Discharge Instructions
Brain Hemorrhage without Surgery
 
Activity

· We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.

· You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

· No driving while taking any narcotic or sedating medication. 

· If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

Medications

· Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 

· You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction (for 7 
days). It is important that you take this medication 
consistently and on time. 

· You may use Acetaminophen(Tylenol) for minor discomfort if you 
are not otherwise restricted from taking this medication.
 

What You ___ Experience:

· You may have difficult paying attention, concentrating, and 
remembering new information.

· Emotional and/or behavioral difficulties are common. 

· Feeling more tired, restlessness, irritability, and mood 
swings are also common.

· Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:

·  Headache is on eof the most common symptom after a brain 
bleed. 

· Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

· Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 

· There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 

 

When to Call Your Doctor at ___ for:

· Nausea and/or vomiting
· Extreme sleepiness and not being able to stay awake
· Severe headaches not relieved by pain relievers
· Seizures
· Any new problems with your vision or ability to speak
· Weakness or changes in sensation in your face, arms, or leg

 

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
· Sudden numbness sor weakness in the face, arm, or leg
· Sudden confusion or trouble speaking or understanding
· Sudden trouble walking, dizziness, or loss of balance or 
coordination
· Sudden severe headaches with no known reason

 

 
Followup Instructions:
___